US08877975B2
(1-(3,4-difluorophenyl)cyclohexyl)-N,N-dimethylmethanamine hydrochloride (83)
The title compound was synthesized from 1-(3,4-difluorophenyl)-N,N-dimethylcyclohexanecarboxamide (195 mg, 0.73 mmol) using General Procedure E (the amide was prepared from the corresponding carboxylic acid according to General Procedure G), followed by HCl salt formation. The crude HCl salt was recrystallized from 1:1 CH3CN:EtOAc (3.0 mL) to give pure (1-(3,4-difluorophenyl)cyclohexyl)-N,N-dimethylmethanamine hydrochloride as an off-white solid (16 mg, 8%). HPLC Rt=8.24 min; 1H NMR (400 mHz, MeOH-d4) 7.51-7.46 (m, 1H), 7.37-7.34 (m, 2H), 3.31-3.30 (m, 2H), 2.62 (s, 6H), 2.26-2.23 (m, 2H), 1.78-1.38 (m, 8H); LC-MS 7.69 min, (M+1)+ 254 @ 791 min.

reactant | 1-(3,4-difluorophenyl)-N,N-dimethylcyclohexanecarboxamide | 0.73 mmol, 195 mg | FC=1C=C(C=CC1F)C1(CCCCC1)C(=O)N(C)C | C15H19F2NO
reactant | HCl | Cl | ClH
product | (1-(3,4-difluorophenyl)cyclohexyl)-N,N-dimethylmethanamine hydrochloride | 16 mg, 8% | Cl.FC=1C=C(C=CC1F)C1(CCCCC1)CN(C)C | InChI=1S/C15H21F2N.ClH/c1-18(2)11-15(8-4-3-5-9-15)12-6-7-13(16)14(17)10-12;/h6-7,10H,3-5,8-9,11H2,1-2H3;1H
